US06610694B1
Production of 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionamide
409 mg of 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionitrile was dissolved in 6 ml of 2-propanol; 3.5 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring under heating at an external temperature of 40° C. for 12 hours. After cooling, the 2-propanol was distilled off; the residue was extracted with ethyl acetate-tetrahydrofuran (1:1), washed with saturated saline, and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; the residue was crystallized from ethyl acetate-diethyl ether (1:1), washed with diethyl ether, and dried, to yield 293 mg of the title compound.

reactant | 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionitrile | 409 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(=NN2)C(C#N)(C)C)C2=CC=CC=C2 | C30H34N6O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 2-propanol | 6 ml | CC(C)O | C3H8O
product | 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4,3-b]pyridazin-3-yl]-2-methylpropionamide | 293 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(=NN2)C(C(=O)N)(C)C)C2=CC=CC=C2 | C30H36N6O3
